US07947834B2
0.29 ml of phenylacetonitrile in 6 ml of tetrahydrofuran is introduced into a 25 ml three-necked flask. 0.38 g of sodium hydride is subsequently added at 0° C. The reaction medium is stirred at ambient temperature for 30 min and then, at 0° C., 0.5 g of N,N-bis(2-chloroethyl)-3,4-dihydroquinoline-1(2H)-carboxamide is added. The reaction mixture is brought to reflux for 3 h and then ice, water and ethyl acetate are added. The aqueous phase is extracted with ethyl acetate and then the organic phases are combined, washed with water and dried over sodium sulfate and then the solvent is evaporated under reduced pressure. The residue is chromatographed on silica gel with a heptane/methanol gradient from 1/0 to 95/5. 2.91 g of 1-(3,4-dihydroquinolin-1(2H)-ylcarbonyl)-4-phenylpiperidine-4-carbonitrile are obtained.

reactant | phenylacetonitrile | 0.29 ml | C1(=CC=CC=C1)CC#N | C8H7N
reactant | sodium hydride | 0.38 g | [H-].[Na+]
reactant | N,N-bis(2-chloroethyl)-3,4-dihydroquinoline-1(2H)-carboxamide | 0.5 g | ClCCN(C(=O)N1CCCC2=CC=CC=C12)CCCl | C14H18Cl2N2O
reactant | water | O | H2O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(3,4-dihydroquinolin-1(2H)-ylcarbonyl)-4-phenylpiperidine-4-carbonitrile | 2.91 g | N1(CCCC2=CC=CC=C12)C(=O)N1CCC(CC1)(C#N)C1=CC=CC=C1 | C22H23N3O
